US08497264B2
To a solution of LAH (1.0 M solution in tetrahydrafuran; 90 ml, 90 mmol) in THF (50 mL) at rt was added drop wise a solution of 2-(5-azido-7-bromo-3-chloro-1-fluoro-5H-chromeno[2,3-c]pyridin-5-yl)ethanol (24 g, 60.1 mmol) in THF (150 mL). The resulting mixture was stirred at RT for 1 h. The reaction mixture was quenched with sodiumsulfate decahydrate and stirred for 30 min. The mixture was filtered, the filtrate was concentrated under reduced pressure and the residue was purified by chromatography (0-50% EtOAc/hexanes) to afford 2-(5-amino-7-bromo-3-chloro-1-fluoro-5H-chromeno[2,3-c]pyridin-5-yl)ethanol (16.5 g, 44.2 mmol) as a colorless oil.

reactant | LAH | 90 mmol, 1.0 M, 90 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 2-(5-azido-7-bromo-3-chloro-1-fluoro-5H-chromeno[2,3-c]pyridin-5-yl)ethanol | 60.1 mmol, 24 g | N(=[N+]=[N-])C1(C2=CC(=CC=C2OC=2C(=NC(=CC21)Cl)F)Br)CCO | C14H9BrClFN4O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 2-(5-amino-7-bromo-3-chloro-1-fluoro-5H-chromeno[2,3-c]pyridin-5-yl)ethanol | 44.2 mmol, 16.5 g | NC1(C2=CC(=CC=C2OC=2C(=NC(=CC21)Cl)F)Br)CCO | C14H11BrClFN2O2
